US07846975B2
<5-1> Preparation of octa-O-benzoyl-α-lactose
α-Lactose (2.3 g, 6.38 mmol) was dissolved in 30 ml of anhydrous pyridine, benzoyl chloride (8.9 ml, 76.6 mmol) was added thereto at 0° C., and the mixture was stirred for 8 hrs at room temperature. After the reaction was completed, the reaction mixture was extracted with ethyl acetate, and successively washed with 1 N HCl, saturated NaHCO3 and brine. The extract was dried over MgSO4, concentrated under a reduced pressure, and purified by column chromatography (ethyl acetate:n-hexane=1:3), to obtain the title compound as a white solid (7.19 g).

reactant | α-Lactose | 6.38 mmol, 2.3 g | O[C@@H]1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | benzoyl chloride | 76.6 mmol, 8.9 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | octa-O-benzoyl-α-lactose | 7.19 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](O[C@H]2[C@H](OC(C3=CC=CC=C3)=O)[C@@H](OC(C3=CC=CC=C3)=O)[C@@H](OC(C3=CC=CC=C3)=O)[C@H](O2)COC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C68H54O19
